US06537948B1
To a mixture of 0.4 g of an iron powder, 2 ml of acetic acid and 0.2 ml of water was added a solution of 0.393 g of 5-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-4-(methoxycarbonyl)methoxypyrimidine in 1 ml of acetic acid and 2 ml of ethyl acetate dropwise. After completion of the addition, the mixture was stirred for 1 hour at room temperature, for 2 hours at 30-40° C. Water was added to the mixture, then, the mixture was filtrated through Celite, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate solution, and saturated saline, dried over anhydrous magnesium sulfate, and concentrated. Then, the resulted residue was subjected to silica gel chromatography to obtain 0.315 g of 5-{2-amino-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-4-(methoxycarbonyl)methoxypyrimidine.

reactant | water | 0.2 ml | O | H2O
reactant | 5-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-4-(methoxycarbonyl)methoxypyrimidine | 0.393 g | FC1=CC(=C(OC=2C(=NC=NC2)OCC(=O)OC)C=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+](=O)[O-] | C19H13F4N5O8
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
catalyst | iron | 0.4 g | [Fe] | Fe
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 5-{2-amino-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-4-(methoxycarbonyl)methoxypyrimidine | 0.315 g | NC1=C(OC=2C(=NC=NC2)OCC(=O)OC)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C19H15F4N5O6
